US04533655
A solution of N2 -(tert-butyloxycarbonyl)-N2 -methyl-N-[3-(4-fluorophenyl)propyl]-D-alaninamide (2.77 g.) in hydrogen chloride-ethyl acetate (3.4N, 15 ml.) was stirred for thirty minutes at room temperature, then concentrated, affording N2 -methyl-N-[3-(4-fluorophenyl)propyl]-D-alaninamide as a crystalline solid (2.06 g., m.r. 148°-150° C.).

reactant | N2 (tert-butyloxycarbonyl)-N2 -methyl-N-[3-(4-fluorophenyl)propyl]-D-alaninamide | 2.77 g | N#N.C(C)(C)(C)OC(=O)N([C@H](C)C(=O)NCCCC1=CC=C(C=C1)F)C
solvent | hydrogen chloride-ethyl acetate | 3.4N, 15 ml | C(C)(=O)OCC.Cl
product | N2 methyl-N-[3-(4-fluorophenyl)propyl]-D-alaninamide | N#N.CN[C@H](C)C(=O)NCCCC1=CC=C(C=C1)F | InChI=1S/C13H19FN2O.N2/c1-10(15-2)13(17)16-9-3-4-11-5-7-12(14)8-6-11;1-2/h5-8,10,15H,3-4,9H2,1-2H3,(H,16,17);/t10-;/m1./s1
